* Z:\mnt\design.r\spice\examples\1530-1.9.asc
L1 N008 OUT 5µ
V1 IN 0 8
C1 OUT 0 330µ x7
M§Q1 N008 N009 0 0 IRF7201
C3 N006 0 150p
C4 N005 0 .022µ
R1 N006 N005 10K
R2 IN N003 50K
M§Q2 IN N004 N008 N008 IRF7201
R3 N008 N007 20
D1 N002 N001 MBR0530L
D2 IN N002 MBR0530L
C5 N002 N008 .22µ
C6 N001 0 .01µ
C7 N001 0 10µ
XU1 N001 0 OUT N006 N003 N007 N009 N004 LTC1530 Top=22077 Bot=41K
Rload OUT 0 .14
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
.lib LTC1530.sub
.backanno
.end
